US06310070B1
An amidation reaction and post-treatment were carried out according to the conditions of Example 1, using 1.06 g (4.9 mmol) 4-amino-1-benzyl-5-imidazolecarboxamide prepared in Reference Example 2 and, instead of benzoyl chloride, 3,5-dimethyl-4-methoxymethoxybenzoyl chloride which was separately prepared by a conventional method, to obtain 1.40 g of 1-benzyl-4-(3,5-dimethyl-4-methoxymethoxybenzoyl-amino)-5-imidazolecarboxamide.

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 4.9 mmol, 1.06 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3,5-dimethyl-4-methoxymethoxybenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1OCOC)C | C11H13ClO3
product | 1-benzyl-4-(3,5-dimethyl-4-methoxymethoxybenzoyl-amino)-5-imidazolecarboxamide | 1.40 g | C(C1=CC=CC=C1)N1C=NC(=C1C(=O)N)NC(C1=CC(=C(C(=C1)C)OCOC)C)=O | C22H24N4O4
